US07968538B2
N-(1-(3-Bromophenyl)ethyl)-5-fluoro-2-nitrobenzenamine
A mixture of 1-(3-bromophenyl)ethanamine (1.0 g, 5.0 mmol), 2,4-difluoro-1-nitrobenzene (0.8 g, 5.0 mmol), N,N-diisopropylethylamine (1.7 mL, 10.0 mmol) and acetonitrile (20 mL) was stirred for 18 h and concentrated in vacuo. The residue was dissolved in ethyl acetate; this solution was washed with water, dried over Na2SO4 and concentrated in vacuo to yield the title compounds as a yellow oil (1.25 g, 74%). 1H NMR (400 MHz, CDCl3): δ 8.51 (d, 1H), 8.25 (m, 1H), 7.48 (s, 1H), 7.41 (m, 1H), 7.25 (m, 2H), 6.36 (m, 1H), 6.24 (m, 1H), 4.55 (m, 1H), 1.63 (d, 3H). MS (ESI) m/z: Calculated: 338; Observed: 339 (M+H+).

reactant | 1-(3-bromophenyl)ethanamine | 5.0 mmol, 1.0 g | BrC=1C=C(C=CC1)C(C)N | C8H10BrN
reactant | 2,4-difluoro-1-nitrobenzene | 5.0 mmol, 0.8 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(1-(3-Bromophenyl)ethyl)-5-fluoro-2-nitrobenzenamine | 1.25 g, 74% | BrC=1C=C(C=CC1)C(C)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C14H12BrFN2O2
